US08202865B2
Step 1: Methyl 4-bromo-3-(bromomethyl)benzoate
Under N2, to a solution of methyl 4-bromo-3-methylbenzoate (Aldrich 532878, 50 g; 218.27 mmol; 1 eq.) in CHCl3 (1 000 mL) were added NBS (46.62 g; 261.93 mmol; 1.20 eq.) in one portion and α,α′-azoisobutyronitrile (0.72 g; 4.37 mmol; 0.02 eq.). The mixture was stirred at 70° C. for 2 days. The reaction mixture was cooled to RT and water (500 mL) was added. The organic layer was washed with 50 mL NaHCO3 sat. solution, water (340 mL), then brine (500 mL), dried over MgSO4 and concentrated affording the title compound as a yellow solid. It was washed with pentane (2×500 mL) affording the title compound as a yellow solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.24 (d, J=1.91 Hz, 1H), 7.88-7.82 (m, 2H), 4.87 (s, 2H), 3.91 (s, 3H). HPLC (Method A) Rt 4.44 min (Purity: 97.9%).

reactant | methyl 4-bromo-3-methylbenzoate | 218.27 mmol, 50 g, 1 eq. | BrC1=C(C=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | NBS | 261.93 mmol, 46.62 g, 1.20 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 500 mL | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-bromo-3-(bromomethyl)benzoate | BrC1=C(C=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
